US08058299B2
The solution of 4-(3-fluoro-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (2.1 g, 6.4 mmol) in ethyl acetate (20 mL) in the presence of 10% palladium on carbon was shaken under the hydrogen with a pressure of 50 psi at room temperature for 2 hr. The reaction mixture was filtered through a plug of celite and the filtration pad was washed with ethyl acetate. The organic layer was collected, concentrated, and dried to give 4-(4-amino-3-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (1.90 g, crude) as a light red solid, which was directly used in the next step reaction without further purification.

reactant | 4-(3-fluoro-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 6.4 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])F | C15H20FN3O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(4-amino-3-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.90 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)N)F | C15H22FN3O2
